US06265398B1
Preparation of 6-ethoxy-2-tetralone
39.1 g (0.20 mol) of 4-ethoxyphenylacetyl chloride in 200 ml of dichloromethane were added dropwise in the course of 1 hour at −78° C. to 53.4 g (0.4 mol) of aluminum chloride in 800 ml of dichloromethane. A vigorous stream of ethylene was subsequently passed in in the course of 15 minutes, and the mixture was allowed to come to room temperature and stirred for a further 3 hours. The dark red solution was cooled to 0° C. and carefully treated with 300 ml of ice-water. After phase separation, the organic phase was washed with 2N HCl (3×) and saturated sodium hydrogen carbonate solution, dried and evaporated on a rotary evaporator. After purification by column chromatography with petroleum ether/ethyl acetate (9:1, 8:2), 20.9 g (56% of theory) of a yellow syrup were obtained.

reactant | 4-ethoxyphenylacetyl chloride | 0.20 mol, 39.1 g | C(C)OC1=CC=C(C=C1)CC(=O)Cl | C10H11ClO2
reactant | aluminum chloride | 0.4 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethylene | C=C | C2H4
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 6-ethoxy-2-tetralone | C(C)OC=1C=C2CCC(CC2=CC1)=O | C12H14O2
